US07846956B2
1.00 g of [5-(1,1-difluoroethyl)isoxazol-3-yl]methanol was dissolved in 10 ml of dichloromethane, and 0.8 ml of thionyl chloride was then added. The mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure to obtain 1.11 g of 3-(chloromethyl)-5-(1,1-difluoroethyl)isoxazole.

reactant | [5-(1,1-difluoroethyl)isoxazol-3-yl]methanol | 1.00 g | FC(C)(F)C1=CC(=NO1)CO | C6H7F2NO2
reactant | thionyl chloride | 0.8 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-(chloromethyl)-5-(1,1-difluoroethyl)isoxazole | 1.11 g | ClCC1=NOC(=C1)C(C)(F)F | C6H6ClF2NO
